US09447035B2
Step 3: Preparation of 1-[4-azidobutyl]cyclopentanecarboxylic acid:
The title compound was prepared using a similar procedure as described in Example 1, Step 3, starting from 1-[4-azidobutyl]cyclopentanecarboxylic acid methyl ester and lithium hydroxide.

reactant | 1-[4-azidobutyl]cyclopentanecarboxylic acid methyl ester | COC(=O)C1(CCCC1)CCCCN=[N+]=[N-] | C11H19N3O2
reactant | lithium hydroxide | [OH-].[Li+]
product | 1-[4-azidobutyl]cyclopentanecarboxylic acid | N(=[N+]=[N-])CCCCC1(CCCC1)C(=O)O | C10H17N3O2
